US08609731B2
N-((S)-6-Pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
To a solution of 4-[(S)-1-(TETRAHYDROFURAN-2-YL)METHOXY]BENZOIC ACID (3.38 g) in NMP (30 ml) were added HATU (O-(7-AZABENZOTRIAZOL-1-YL)-N,N,N′,N′-TETRAMETHYLURONIUM HEXAFLUOROPHOSPHATE; 5.78 g) and then triethylamine (2.12 ml). A solution of (S)-6-pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine (3.5 g) in NMP (20 ml) was added dropwise. After 12 hours, the reaction mixture was diluted with ethyl acetate, washed with saturated sodium carbonate solution and concentrated. The residue was purified by chromatography on silica gel (eluent: 10:1 DCM/MeOH). The product was thus obtained with the molecular weight of 434.58 (C27H34N2O3); MS (ESI): 435 (M+H+).

reactant | 4-[(S)-1-(TETRAHYDROFURAN-2-YL)METHOXY]BENZOIC ACID | 3.38 g | O1[C@@H](CCC1)COC1=CC=C(C(=O)O)C=C1 | C12H14O4
reactant | HATU | 5.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.12 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-6-pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-ylamine | 3.5 g | N1(CCCC1)CC=1C=C2CC[C@@H](CC2=CC1)N | C15H22N2
solvent | NMP | 30 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((S)-6-Pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | N1(CCCC1)CC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C27H34N2O3
